data/oMe_Silver.jsonl
{"reaction_id": "NR-203_1-c1ccc(OC)cc1_2-CC(=O)C","level": "medium","name": "Nef Reaction","reactants_smiles": ["C(c1ccc(OC)cc1)(CC(=O)C)([N+](=O)[O-])"],"products_smiles": ["O=C(c1ccc(OC)cc1)(CC(=O)C)"],"conditions": "H3O+","mechanism_step_nums": 7,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(OC)cc1)(CC(=O)C)=N([O-])=O","step_weight": 0,"rationale": "Protonation of the nitro group oxygen increases electrophilicity of nitrogen, facilitating tautomerization to the nitronic acid form under acidic conditions."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(OC)cc1)(CC(=O)C)=[N+]([O-])O","step_weight": 0,"rationale": "Further proton transfer stabilizes the nitronic acid tautomer by delocalizing positive charge onto nitrogen, making it more susceptible to nucleophilic attack."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(OC)cc1)(CC(=O)C)=[N+](O)O","step_weight": 0,"rationale": "Protonation of the hydroxyl oxygen enhances the leaving ability of water in later steps and increases the electrophilicity of the nitrogen center."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccc(OC)cc1)(CC(=O)C)([NH+](O)O)[OH2+]","step_weight": 0,"rationale": "Water, abundant in acidic medium, attacks the electrophilic nitrogen-carbon center, driven by the positive charge and resonance stabilization of the intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(OC)cc1)(CC(=O)C)([NH+](O)O)[OH]","step_weight": 0,"rationale": "Proton transfer from the coordinated water to the nitronic hydroxyl group prepares for elimination by generating a better leaving group."},{"step": 6,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[OH+]=C(c1ccc(OC)cc1)(CC(=O)C)","step_weight": 0,"rationale": "Elimination of the protonated hydroxylamine fragment occurs because water is a good leaving group under acidic conditions, forming an oxonium ion intermediate."},{"step": 7,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=C(c1ccc(OC)cc1)(CC(=O)C)","step_weight": 0,"rationale": "Loss of a proton from the oxonium ion yields the neutral carbonyl product, driven by the thermodynamic stability of the C=O bond."}],"description": "Under acidic conditions, the nitro group of the nitroalkane is sequentially protonated and rearranged to form a nitronic acid, which undergoes hydration and elimination steps. Proton transfers and good leaving group formation drive the conversion to the corresponding carbonyl compound."}
{"reaction_id": "NR-135_1-c1ccccc1_2-SC_3-C(C)C_4-c1ccc(OC)cc1","name": "Luche Reduction","level": "medium","reactants_smiles": ["C(c1ccccc1)(SC)=C(C(C)C)C(=O)(c1ccc(OC)cc1)","[Na+].[BH4-]","Cl[Ce](Cl)Cl","CO"],"products_smiles": ["C(c1ccccc1)(SC)=C(C(C)C)C(O)(c1ccc(OC)cc1)"],"conditions": "NaBH4, CeCl3, MeOH","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(c1ccccc1)(SC)=C(C(C)C)C(=[O+][Ce-](Cl)(Cl)Cl)(c1ccc(OC)cc1)","rationale": "CeCl3, a strong Lewis acid, coordinates to the carbonyl oxygen, withdrawing electron density and increasing the partial positive charge on the carbonyl carbon, making it more susceptible to nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccccc1)(SC)=C(C(C)C)C(O[Ce-](Cl)(Cl)Cl)(c1ccc(OC)cc1)","rationale": "NaBH4 delivers hydride to the activated carbonyl carbon; Ce coordination reduces conjugation with the alkene, favoring 1,2-addition over 1,4-addition under these mild conditions."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccccc1)(SC)=C(C(C)C)C(O)(c1ccc(OC)cc1)","rationale": "The alkoxide–cerium complex is protonated by methanol, a protic solvent, to yield the neutral alcohol and regenerate the Lewis acid catalyst."}],"description": "CeCl3 coordinates to the carbonyl oxygen, enhancing electrophilicity and directing NaBH4 reduction selectively to the carbonyl over the conjugated alkene. Hydride addition yields an alkoxide–cerium complex, which is then protonated in methanol to give the allylic alcohol."}
